US04002647
A mixture of 27.7 g. of 6-hydroxy-2,3-dihydrobenzofuran, 52.1 g. of geranyl bromide and 41.4 g. of anhydrous powdered potassium carbonate in 200 ml. of methyl ethyl ketone is heated under reflux with stirring for 70 hours. The cooled reaction mixture is filtered, the residual potassium carbonate washed with acetone and the filtrate evaporated. By chromatography on silica gel with hexane/diethyl ether (4:1 parts by volume) there is obtained pure 6-[(3,7-dimethyl-2,6-octadienyl)-oxy]-2,3-dihydrobenzofuran of boiling poiint 130° C./0.001 mmHg.; nD20 = 1.5414.

reactant | 6-hydroxy-2,3-dihydrobenzofuran | OC1=CC2=C(CCO2)C=C1 | C8H8O2
reactant | geranyl bromide | C(\C=C(/C)\CCC=C(C)C)Br | C10H17Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | 6-[(3,7-dimethyl-2,6-octadienyl)-oxy]-2,3-dihydrobenzofuran | CC(=CCOC1=CC2=C(CCO2)C=C1)CCC=C(C)C | C18H24O2
